US09376422B2
Step 7: Synthesis of tert-butyl 4-[(5-chloro-3-{[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]carbamoyl}-2-methylphenyl)(ethyl)amino]piperidine-1-carboxylate
To a solution of 3-({1-[(tert-butoxy)carbonyl]piperidin-4-yl}(ethyl)amino)-5-chloro-2-methylbenzoic acid (60 mg, 0.15 mmol) in DMF (2 ml) at room temperature under nitrogen was added PyBOP (94 mg, 0.18 mmol) followed by N-ethyl-N-(propan-2-yl)propan-2-amine (40 μl, 0.23 mmol) and 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one (89%, 28 mg, 0.17 mmol). After stirring for 1 hour at room temperature EtOAc (30 ml) was added to the reaction mixture and this was then washed with deionized water (5 ml) followed by saturated NaHCO3(aq) (3×5 ml). The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by FCC (2 g silica, Isolute cartridge, gradient of eluents; 100% EtOAc to 96:4 EtOAc:MeOH) to give 71 mg (88%) of the title compound as a pale yellow solid. LC-MS 97%, m/z=531.1/533.1, 1H NMR (250 MHz, Chloroform-d) δ ppm 11.17 (1H, br. s.), 7.11-7.18 (1H, m), 7.06 (2H, dd, J=7.46, 2.28 Hz), 5.96 (1H, s), 4.53 (2H, d, J=5.94 Hz), 3.93-4.14 (2H, m), 2.97-3.08 (2H, m), 2.78-2.88 (1H, m), 2.68 (2H, t, J=11.57 Hz), 2.39 (3H, s), 2.26 (3H, s), 2.24 (3H, s), 1.71 (2H, d, J=11.27 Hz), 1.52 (2H, br. s.), 1.45 (9H, s), 0.86 (3H, t, J=6.93 Hz).

reactant | 3-({1-[(tert-butoxy)carbonyl]piperidin-4-yl}(ethyl)amino)-5-chloro-2-methylbenzoic acid | 0.15 mmol, 60 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C=1C(=C(C(=O)O)C=C(C1)Cl)C)CC | C20H29ClN2O4
reactant | PyBOP | 0.18 mmol, 94 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N-ethyl-N-(propan-2-yl)propan-2-amine | 0.23 mmol, 40 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one | 0.17 mmol, 28 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | tert-butyl 4-[(5-chloro-3-{[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]carbamoyl}-2-methylphenyl)(ethyl)amino]piperidine-1-carboxylate | 71 mg, 88% | ClC=1C=C(C(=C(C1)N(C1CCN(CC1)C(=O)OC(C)(C)C)CC)C)C(NCC=1C(NC(=CC1C)C)=O)=O | C28H39ClN4O4
